US07612068B2
4-Chloro-1-(3-fluoro-phenylsulfanyl)-2-methoxybenzene
A dry round bottomed flask was charged with KOtBu (1.903 g, 17.0 mmol), 5-chloro-2-iodoanisole (4.054 g, 15.1 mmol), Pd2dba3 (144 mg, 0.16 mmol), DPEPhos (176 mg, 0.33 mmol) and 3-fluoro-thiophenol (1.903 g, 17.0 mmol). The flask was evacuated and backfilled with Ar three times. Dry toluene (80 mL) was added and the mixture stirred at 95° C. for 2 h. The mixture was filtered through a pad of silica gel followed by adsorption onto silica gel. After purification by flash chromatography using silica gel, eluting with heptanes/EtOAc, 97:3, the title compound was obtained as a yellow oil (3.41 g, 85%).

reactant | KOtBu | 17.0 mmol, 1.903 g | CC(C)(C)[O-].[K+]
reactant | 5-chloro-2-iodoanisole | 15.1 mmol, 4.054 g | ClC=1C=CC(=C(C1)OC)I | C7H6ClIO
reactant | DPEPhos | 0.33 mmol, 176 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | 3-fluoro-thiophenol | 17.0 mmol, 1.903 g | FC=1C=C(C=CC1)S | C6H5FS
catalyst | Pd2dba3 | 0.16 mmol, 144 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Chloro-1-(3-fluoro-phenylsulfanyl)-2-methoxybenzene | ClC1=CC(=C(C=C1)SC1=CC(=CC=C1)F)OC | C13H10ClFOS
